US04321372
Ethyl 4,5-Diethylthiazol-2-ylcarbamoylcarboxylate
2-Amino-4,5-diethylthiazole hydrochloride (2.9 g., 15 mmoles) was slurried in 20 ml. of pyridine and cooled in an ice-water bath. Ethyloxalyl chloride (2.3 g., 1.9 ml., 17 mmoles) was added dropwise over 10 minutes. The reaction was stirred for 15 minutes in the ice-water bath and then for 30 minutes at room temperature. The reaction mixture was diluted with approximately 70 ml. of ice and water and the oily precipitate which formed extracted into chloroform (2×75 ml.). The combined chloroform extracts were dried over anhydrous sodium sulfate, filtered and stripped in vacuo to an oil, which was crystallized by triturating and stirring with 40 ml. of water. Approximately 3 g. of crude product resulted. Recrystallization from approximately 30 ml. of cyclohexane gave purified ethyl 4,5-diethylthiazol-2-ylcarbamoylcarboxylate (1.8 g., m.p. 71.5°-72.5° C.).

reactant | 2-Amino-4,5-diethylthiazole hydrochloride | 15 mmoles, 2.9 g | Cl.NC=1SC(=C(N1)CC)CC
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Ethyloxalyl chloride | 17 mmoles, 1.9 ml, 2.3 g | CCC(=O)C(=O)Cl | C4H5ClO2
reactant | water | O | H2O
product | Ethyl 4,5-Diethylthiazol-2-ylcarbamoylcarboxylate | C(C)C=1N=C(SC1CC)NC(=O)C(=O)OCC | C11H16N2O3S
